US07795283B2
iii) tert-Butyl trans-4-(4-nitrophenyl)cyclohexanecarboxylate
4-(Dimethylamino)pyridine (9.7 g, 80.2 mmol) and a solution of di-tert-butyl dicarbonate (17.5 g, 80.2 mmol) in DCM (5 mL) were added sequentially, each in one portion, to a mixture of trans-4-(4-nitrophenyl)cyclohexanecarboxylic acid (10 g, 40.1 mmol) in DCM (45 mL) at room temperature. The reaction was stirred for 16 h and then evaporated to leave a yellow oil. The oil was triturated with a mixture of isohexane:EtOAc (4:1) and filtered. The filtrate was concentrated in vacuo and purified by chromatography, eluting with 20-33% EtOAc in isohexane, to give the title compound as a waxy solid (4.3 g, 35%); 1H NMR δ 1.4 (9H, s), 1.4-1.6 (4H, m), 1.8-1.9 (2H, m), 1.95-2.05 (2H, m), 2.2-2.35 (1H, m), 2.65-2.75 (1H, m), 7.55 (2H, d), 8.18 (2H, d).

reactant | di-tert-butyl dicarbonate | 80.2 mmol, 17.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | trans-4-(4-nitrophenyl)cyclohexanecarboxylic acid | 40.1 mmol, 10 g | [N+](=O)([O-])C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(=O)O | C13H15NO4
catalyst | 4-(Dimethylamino)pyridine | 80.2 mmol, 9.7 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 45 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl trans-4-(4-nitrophenyl)cyclohexanecarboxylate | [N+](=O)([O-])C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(=O)OC(C)(C)C | C17H23NO4
